US05106871
Then, 20.6 g of 1-(2-hydroxy-4-methoxy-3-isopentylphenyl)-3-(4-methoxycarbonylmethoxyphenyl)-1-propanone was dissolved in 100 ml of methanol, and 100 ml of a 5% aqueous solution of potassium hydroxide was added to the solution and the mixture was stirred at room temperature for 1 hour. After the reaction, the reaction mixture was made acidic by dilute hydrochloric acid, and the formed precipitate was recovered by filtration and recrystallized from benzene to obtain 15.2 g (yield=96.8%) of 1-(2-hydroxy-4-methoxy-3-isopentylphenyl)-3-(4-carboxymethoxyphenyl)-1-propanone in the form of a colorless grain.

reactant | 1-(2-hydroxy-4-methoxy-3-isopentylphenyl)-3-(4-methoxycarbonylmethoxyphenyl)-1-propanone | 20.6 g | OC1=C(C=CC(=C1CCC(C)C)OC)C(CCC1=CC=C(C=C1)OCC(=O)OC)=O | C24H30O6
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
product | 1-(2-hydroxy-4-methoxy-3-isopentylphenyl)-3-(4-carboxymethoxyphenyl)-1-propanone | 15.2 g, yield=96.8% | OC1=C(C=CC(=C1CCC(C)C)OC)C(CCC1=CC=C(C=C1)OCC(=O)O)=O | C23H28O6
